Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
gemcitabine
 
Attending: ___.
 
Chief Complaint:
 anemia and thrombocytopenia, concern for HUS

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 Feels fatigue, Denies shortness of breath at rest.   Denies 
significant nausea, vomiting or diarrhea. Denies constipation, 
neurologicla symptoms, eating undercooked ___.   He denies any 
chest discomfort.  Denies abnormal bleeding. His labs work was 
worrisome for Gemzar induced HUS, which was held and directly 
admitted from clinic. 
vitals at ___ 
  BP: 96/69 mmHg 
  Pulse: 95 
  Temp: 98 F (36.7 C) 
  Temp src: Oral 
  SpO2: 95 % 
  Weight: 179 lb (81.194 kg) 
  Pain Score: Zero 

On arrival to the floor, patient is stable and doing well. HD 
stable with no complaints. 

 
Past Medical History:
Non-Hodgkin's lymphoma (care via Atrius Oncology, diagnosed in 
___, quiescent)  
Lung cancer (care via Atrius Oncology, diagnosed in ___, 
quiescent)  
Ventricular tachycardia s/p pacemaker/defibrillator placement  
Anemia  
Neuropathy  
Tobacco use  
Chronic pain  
Depression 
 
Social History:
___
Family History:
Brother with prostate cancer, sisters with thyroid and parotid 
gland cancer. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
VS: 98.4 100/62 110 18 97% RA 177.9 lbs. 
GENERAL: NAD  
HEENT: NC/AT, EOMI, PERRL, MMM
CARDIAC: RRR, nl S1 and S2, no murmurs
LUNG: CTAB no w/r/rh, Right port in place. 
ABD: +BS, soft, NT/ND, no r/g 
EXT: No lower extermity pitting edema   
PULSES: 2+DP pulses bilaterally
NEURO: CN II-XII intact. 
SKIN: Warm and dry

Discharge:
VS: 98.4 94/62 85 20 94% RA. 
GENERAL: NAD  
HEENT: NC/AT, EOMI, PERRL, MMM
CARDIAC: RRR, nl S1 and S2, no murmurs
LUNG: CTAB no w/r/rh, Right port in place. 
ABD: +BS, soft, NT/ND, no r/g 
EXT: No lower extermity pitting edema   
PULSES: 2+DP pulses bilaterally
NEURO: CN II-XII intact. 
SKIN: Warm and dry

 
Pertinent Results:
Admission:

___ 08:51PM URINE  HOURS-RANDOM UREA N-796 CREAT-110 
SODIUM-40 POTASSIUM-64 CHLORIDE-38
___ 08:51PM URINE  OSMOLAL-520
___ 08:51PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:51PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:15PM   GLUCOSE-112* UREA N-40* CREAT-1.8*# 
SODIUM-138 POTASSIUM-4.0 CHLORIDE-101 TOTAL CO2-27 ANION GAP-14
___ 06:15PM   estGFR-Using this
___ 06:15PM   ALT(SGPT)-19 AST(SGOT)-27 LD(LDH)-215 ALK 
PHOS-72 TOT BILI-0.2
___ 06:15PM   CALCIUM-8.9 PHOSPHATE-4.4 MAGNESIUM-2.4
___ 06:15PM   D-DIMER-1656*
___ 06:15PM   ___ PTT-28.4 ___
___ 06:15PM   RET AUT-4.3*
___ 06:15PM   RET AUT-4.3*

Discharge:

___ 12:06PM BLOOD WBC-2.9* RBC-2.69* Hgb-8.6* Hct-24.9* 
MCV-93 MCH-31.8 MCHC-34.4 RDW-20.6* Plt Ct-31*
___ 12:06PM BLOOD Plt Ct-31*
___ 12:53AM BLOOD Hypochr-NORMAL Anisocy-2+ Poiklo-1+ 
Macrocy-1+ Microcy-1+ Polychr-1+ Ovalocy-1+ Schisto-OCCASIONAL 
Stipple-OCCASIONAL Tear Dr-OCCASIONAL
___ 07:00AM BLOOD ___ 12:06PM BLOOD Glucose-114* UreaN-27* Creat-1.4* Na-141 
K-4.0 Cl-106 HCO3-24 AnGap-15
___ 07:00AM BLOOD ALT-18 AST-25 LD(LDH)-223 AlkPhos-63 
TotBili-1.0
___ 07:00AM BLOOD D-Dimer-___*
 
Brief Hospital Course:
Assessment/Plan: ___ yrs. heavy smoker with h/o T cell anaplastic 
large cell lymphoma s/p autologous stem cell transplant in ___, 
h/o stage Ia left lung adenocarcinoma with squamous 
differentiation s/p wedge resection in ___, and h/o asystolic 
cardiac arrest s/p a defibrillator placement.  PET at ___ on 
___ showed a large FDG avid lesion in the upper left lung 
and FDG avid lesions in the right fifth and tenth ribs 
consistent with bony metastases with subsequent transbronch 
biopsy showed squamous cell carcinoma.

- ___ - Baseline appears to be 1.5 with an acute rise to 2.0, 
now back down to 1.6 with blood and fluids. Urine lytes were 
suggestive of pre-renal. Differential includes HUS/TTP, pre 
renal azotemia, and chemo-induced ___. 

1. Thrombocytopenia/worsening anemia - Appears to be stable and 
improving today without intervention, thus likely Gemzar 
induced, immune type low grade hemolysis as haptoglobin is low 
and LDH is high normal. Will held Gemzar and added to his list 
of meds to avoid.  
 
- He was Typed and Screened and give a total of 2 units of pRBC. 


2. Lung cancer 
Counts improved off of gemzar and this medication should not be 
used as a future treatment. 

3. Decreased appetite
 Marinol was not approved by his insurance. Will start as 
inpatient. Pt was not here long enough to assess efficacy.  

4. Depression - Continued home Citalopram

5. Anxiety - Continued home Clonazepam 

6. Nausea - Continued home Prochlorperazine 10 mg PO Q6H:PRN and 
Zofran 8 mg PO q8H

7. Pain - Continude home Morphine SR (MS ___ 60 mg PO Q12H 
Morphine SR (MS ___ 30 mg PO Q6H, and 10 mg Oxycodone q6H 
for breakthrough. 

8. Fatigue - Continued home Provigil BID.  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lorazepam 1 mg PO QHS:PRN insomnia 
2. Morphine SR (MS ___ 60 mg PO Q12H 
3. Morphine SR (MS ___ 30 mg PO Q6H 
4. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
5. ClonazePAM 0.5 mg PO BID:PRN anxiety 
6. Dronabinol 2.5 mg PO BID 
7. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough or wheeze 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. Ondansetron 8 mg PO Q8H:PRN nausea 
10. Provigil (modafinil) 200 mg oral BID 
11. Citalopram 40 mg PO DAILY 
12. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
13. Atorvastatin 20 mg PO QPM 
14. Cyanocobalamin 1000 mcg PO DAILY 

 
Discharge Medications:
1. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN cough or wheeze 
3. Atorvastatin 20 mg PO QPM 
4. Citalopram 40 mg PO DAILY 
5. ClonazePAM 0.5 mg PO BID:PRN anxiety 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Dronabinol 2.5 mg PO BID 
8. Lorazepam 1 mg PO QHS:PRN insomnia 
9. Morphine SR (MS ___ 60 mg PO Q12H 
10. Morphine SR (MS ___ 30 mg PO Q6H 
11. Ondansetron 8 mg PO Q8H:PRN nausea 
12. OxycoDONE (Immediate Release)  10 mg PO Q6H:PRN pain 
13. Prochlorperazine 10 mg PO Q6H:PRN nausea 
14. Provigil (modafinil) 200 mg oral BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
1. Hemolytic Uremic Syndrome
2. Adverse reaction to medication: Gemcitabine

SECONDARY
1. Metastatic Squamous Cell Cancer of the Lung
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure to take care of you during your recent 
admission at ___. You were 
admitted due to worsening red blood cell and platelet counts as 
well as worsening renal function. We believe this is due to an 
adverse reaction to the gemcitabine infusion you had (Gemzar) 
called Hemolytic Uremic Syndrome. Unfortunately you will not be 
able to have any more of that drug. You received a transfusion 
of red blood cells, your platelet counts are stable and you 
kidney function is improving. 
You should be able to do well at home with close follow-up by 
your oncologist. 
 
Followup Instructions:
___